US07598255B2
2-Isopropyl-4-(5-methyl-thiophen-3-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride
A solution of 7-benzyl-2-isopropyl-4-(5-methyl-thiophen-3-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride (0.133 g) in 1,2-dichloroethane (7 mL) was treated with 1-chloroethylchloroformate (0.105 mL). The mixture was heated at 95° C. for 16 h, concentrated, dissolved in MeOH, and heated at 50° C. for an additional 2 h. The mixture was concentrated and chromatographed on SiO2 (2 M NH3 in MeOH/CH2Cl2). MS (ESI): exact mass calcd. for C15H19N3S, 273.13; m/z found, 274.3 [M+H]+. 1H NMR (MeOH-d4): 7.81-7.80 (m, 1H), 7.36-7.35 (m, 1H), 4.42 (s, 2H), 3.55 (t, J=6.0, 2H), 3.25 (t, J=6.0, 2H), 3.19 (m, 1H), 2.55 (s, 3H), 1.35 (d, J=7.2, 6H).

reactant | 7-benzyl-2-isopropyl-4-(5-methyl-thiophen-3-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride | 0.133 g | Cl.C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)C1=CSC(=C1)C)C(C)C
reactant | 1-chloroethylchloroformate | 0.105 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
product | 2-Isopropyl-4-(5-methyl-thiophen-3-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine hydrochloride | Cl.C(C)(C)C=1N=C(C2=C(N1)CNCC2)C2=CSC(=C2)C | InChI=1S/C15H19N3S.ClH/c1-9(2)15-17-13-7-16-5-4-12(13)14(18-15)11-6-10(3)19-8-11;/h6,8-9,16H,4-5,7H2,1-3H3;1H
